US04632927
Step 2. 5-(3 -Phthalimido-propoxy)-1-hydroxy-isoquinoline
N-(3-Bromopropyl)phthalimide (164 g) is added to a stirred solution of 5-hydroxy-1,2-dihydro-1-(2H)-isoquinolone (96.7 g) and anhydrous K2CO3 (91.2 g) in 750 ml of DMF. The reaction mixture is stirred at room temperature for one week, diluted with 3 liters of H2O and stirring continued at RT for an additional 30 minutes. The reaction mixture is filtered and the solid resuspended in 2 liters of H2O and stirred at RT for an additional 11/2 hours. The suspension is filtered and the solid dried in air. The dried solid is broken up, suspended in 750 ml of chloroform and stirred vigorously at RT for 1 hour. The suspension is filtered and the solid dried. The crude product (95.8 g) is dissolved in 2.5 liters in boiling glacial acetic acid. The resulting dark solution is concentrated and cooled. The crystalline precipitate is collected and dried, washed with diethyl ether, resuspended in diethyl ether, stirred at RT for 30 minutes, filtered and dried in vacuo overnight, yielding 59.3 g of the desired product, M.P.>300° C.

reactant | N-(3-Bromopropyl)phthalimide | 164 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | K2CO3 | 91.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 750 ml | CN(C)C=O | C3H7NO
solvent | H2O | 3 liters | O | H2O
product | 5-(3 -Phthalimido-propoxy)-1-hydroxy-isoquinoline | 59.3 g | C1(C=2C(C(N1CCCOC1=C3C=CN=C(C3=CC=C1)O)=O)=CC=CC2)=O | C20H16N2O4
